US05958918
A. 2-[[1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(N-Cbz-7-aminonaphthalene-2-sulfonyl)amino]acetic acid tert-butyl ester
The title compound is prepared from N-Cbz-7-aminonaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide as described in EXAMPLE 141, Part D using tert-butyl bromoacetate in place of benzyl bromide. The crude product is purified by column chromatography eluting with a gradient of 5% EtOAc/CH2Cl2 to 10% EtOAc/CH2Cl2 to provide the title compound as a solid.

reactant | N-Cbz-7-aminonaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)NC(=O)OCC1=CC=CC=C1)=O | C28H24N4O5S2
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 2-[[1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(N-Cbz-7-aminonaphthalene-2-sulfonyl)amino]acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)NC(=O)OCC1=CC=CC=C1)[C@@H]1C(N(CC1)CC1=CSC(=C1)C#N)=O)=O | C34H34N4O7S2
